### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/QuadraticForm): Replace `BilinForm` with a scalar valued bi `LinearMap`

### PR DESCRIPTION
**Pull request by mans0954**
Following on from #10097, which converted the companion of a quadratic form with a bilinear map, this PR replaces a number of results about quadratic forms and bilinear forms with results about quadratic forms and scalar valued bilinear maps. The long term aim is to be able to consider quadratic maps.

The main change is to `LinearAlgebra/QuadraticForm/Basic`, but this necessitates changes throughout `LinearAlgebra/QuadraticForm/`. Minor changes are also required elsewhere:

- `LinearAlgebra/CliffordAlgebra/`
- `LinearAlgebra/Matrix/PosDef`
- `LinearAlgebra/SesquilinearForm`
- A number of additional results about tensor products and linear maps are also required.

---

- [x] depends on: #10167

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
!bench

**Review by eric-wieser — COMMENTED** [review]
I don't think we want to drop `BilinForm` as a name.

I would prefer in the shorter term that we introduce `abbrev LinearMap.BilinForm`, and use that in place of the existing `BilinForm`. That gives us a nice namespace to put all the results abut bilinear maps in.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+# Bilinear maps on a Tensor Product
+
+## Main definitions
+
+* `LinearMap.tensorDistrib (B₁ ⊗ₜ B₂)`: the bilinear map on `M₁ ⊗ M₂` constructed by applying
+  `B₁` on `M₁` and `B₂` on `M₂`.
+
+## Implementation notes
+
+Bilinear map versions of some results in `LinearAlgebra.BilinearForm.TensorProduct`.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: Can you prove one using the other, rather than copy-pasting the file?

**Comment by mcdoll** [comment]
> I don't think we want to drop `BilinForm` as a name.
> 
> I would prefer in the shorter term that we introduce `abbrev LinearMap.BilinForm`, and use that in place of the existing `BilinForm`. That gives us a nice namespace to put all the results abut bilinear maps in.

This is not what is been done in other files about bilinear maps (in particular `LinearAlgebra/BilinearMap` and `LinearAlgebra/SesquilinearForm`). Everything is in `LinearMap` to allow for dot-notation.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 1 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: I still think we should get rid of `BilinForm` and tangling the replacement to the deprecated definition only makes everything worse.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: In this case, I'm suggesting we reprove the `BilinForm` case in terms of the `LinearMap` case.

**Comment by eric-wieser** [comment]
Dot notation works just fine with an `abbrev` too, and I think it makes things more readable to distinguish linear maps from bilinear forms, for the same reason as we distinguish LinearMap from Module.Dual.

> This is not what is been done in other files about bilinear maps

This is certainly unfortunate

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: (I agree in the long term `structure BilinForm` should not exist)

Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: @eric-wieser To define `BilinForm.tensorDistrib` in terms of `LinearMap.tensorDistrib` I think we need a map:
```
BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] (M₁ →ₗ[A] M₁ →ₗ[A] A) ⊗[R] (M₂ →ₗ[R] M₂ →ₗ[R] R)
```
This is okay:
```
#check TensorProduct.map ((toLin (R₂ := R) (M₂ := M₁)).toLinearMap )  ((toLin (R₂ := R) (M₂ := M₂)).toLinearMap)
```
But `TensorProduct.lift` is not hetrobasic, so this fails:
```
#check TensorProduct.map ((toLin (R₂ := A) (M₂ := M₁)).toLinearMap )  ((toLin (R₂ := R) (M₂ := M₂)).toLinearMap)
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: I'm pretty sure the current definition of `BilinForm.tensorDistrib` already contains the new definition as a subexpression?

Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: Ah!
```
#check TensorProduct.AlgebraTensorModule.congr ((toLin (R₂ := A) (M₂ := M₁))) (toLin (R₂ := R) (M₂ := M₂)) 
```
Thanks.

Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: So, something like this?
```
def tensorDistrib : BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] BilinForm A (M₁ ⊗[R] M₂) :=
  LinearMap.toBilin.toLinearMap ∘ₗ (LinearMap.tensorDistrib R A ∘ₗ 
    (TensorProduct.AlgebraTensorModule.congr toLin toLin ).toLinearMap)
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: Yes, that looks good to me

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
+/-
+Copyright (c) 2024 Christopher Hoskin. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Christopher Hoskin
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:4]: I'd argue this should be
```suggestion
Copyright (c) 2023 Eric Wieser. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Eric Wieser, Christopher Hoskin
```
since I think this is largely copied from the other file.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:19]: If we're claiming that `BilinForm` is the soon-to-be-deprecated version, then I think this comment belongs in `LinearAlgebra.BilinearForm.TensorProduct` pointing in the other direction.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+  LinearMap.tensorDistrib R A (B₁ ⊗ₜ[R] B₂)
+
+variable (A) in
+/-- The base change of a bilinear form. -/
+protected def baseChange₂ (B : M₂ →ₗ[R] M₂ →ₗ[R] R) :
+    ((A ⊗[R] M₂) →ₗ[A] (A ⊗[R] M₂) →ₗ[A] A) :=
+  LinearMap.tmul (R := R) (A := A) (M₁ := A) (M₂ := M₂) (LinearMap.mul A A) B
+
+@[simp]
+theorem baseChange_tmul₂ (B₂ : M₂ →ₗ[R] M₂ →ₗ[R] R) (a : A) (m₂ : M₂)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:72]:
```suggestion
theorem baseChange₂_tmul (B₂ : M₂ →ₗ[R] M₂ →ₗ[R] R) (a : A) (m₂ : M₂)
```

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:4]: Fair enough!

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+    (M₁ ⊗[R] M₂) →ₗ[A] (M₁ ⊗[R] M₂) →ₗ[A] A :=
+  LinearMap.tensorDistrib R A (B₁ ⊗ₜ[R] B₂)
+
+attribute [ext] TensorProduct.ext in
+/-- A tensor product of symmetric bilinear forms is symmetric. -/
+lemma IsSymm.tmul {B₁ : M₁ →ₗ[A] M₁ →ₗ[A] A} {B₂ : M₂ →ₗ[R] M₂ →ₗ[R] R}
+    (hB₁ : B₁.IsSymm) (hB₂ : B₂.IsSymm) : (B₁.tmul B₂).IsSymm := by
+  rw [LinearMap.isSymm_iff_eq_flip]
+  ext x₁ x₂ y₁ y₂
+  exact congr_arg₂ (HSMul.hSMul) (hB₂ x₂ y₂) (hB₁ x₁ y₁)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:69]: Can you use this to prove the other `IsSymm.tmul`?

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean [hunk 5]
```diff
@@ -44,13 +49,8 @@ variable (R A) in
...
 def tensorDistrib : BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] BilinForm A (M₁ ⊗[R] M₂) :=
-  ((TensorProduct.AlgebraTensorModule.tensorTensorTensorComm R A M₁ M₂ M₁ M₂).dualMap
-    ≪≫ₗ (TensorProduct.lift.equiv A (M₁ ⊗[R] M₂) (M₁ ⊗[R] M₂) A).symm
-    ≪≫ₗ LinearMap.toBilin).toLinearMap
-  ∘ₗ TensorProduct.AlgebraTensorModule.dualDistrib R _ _ _
-  ∘ₗ (TensorProduct.AlgebraTensorModule.congr
-    (BilinForm.toLin ≪≫ₗ TensorProduct.lift.equiv A _ _ _)
-    (BilinForm.toLin ≪≫ₗ TensorProduct.lift.equiv R _ _ _)).toLinearMap
+  LinearMap.toBilin.toLinearMap ∘ₗ (LinearMap.tensorDistrib R A ∘ₗ
+    (TensorProduct.AlgebraTensorModule.congr toLin toLin ).toLinearMap)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:53]: You should be able to do something similar to `tensorDistribEquiv` below too.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:69]: I started looking at this. The BilinForm version of `IsSymm` doesn't require the semiring to be commutative. To do this properly we'd want the second argument to be a right module over `R` instead of a left module. Alternatively we could pursue the same strategy as we did with quadratic forms and remove the non-commutative semi-ring case for now.

#10422

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:53]: Yes, I was just working on that. Done.

**Comment by mcdoll** [comment]
> Dot notation works just fine with an `abbrev` too, and I think it makes things more readable to distinguish linear maps from bilinear forms, for the same reason as we distinguish LinearMap from Module.Dual.
> 
> > This is not what is been done in other files about bilinear maps
> 
> This is certainly unfortunate

Yes, I created an issue for this

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean]: Done.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:69]: Turns out I was wrong - it is possible to prove `BilinForm.IsSymm.tmul` using `LinearMap.IsSymm.tmul` without changing the definition of `BilinForm.IsSymm`. I've pushed a commit to that effect.

**Comment by mans0954** [comment]
> Yes, I created an issue for this

Thanks. Does that mean that this PR is blocked until #10424 is resolved?

**Comment by eric-wieser** [comment]
No, I don't think so; though perhaps its worth adding a TODO in the source code as well referring to that issue

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 6]
```diff
@@ -333,15 +333,15 @@ theorem transpose {M : Matrix n n R} (hM : M.PosDef) : Mᵀ.PosDef := by
...
+  simp only [QuadraticForm.PosDef, ne_eq, toQuadraticForm', LinearMap.toQuadraticForm_apply,
+    toLinearMap₂'_apply'] at hMq
   apply hMq x hx
 #align matrix.pos_def_of_to_quadratic_form' Matrix.PosDef.of_toQuadraticForm'
 
 theorem toQuadraticForm' [DecidableEq n] {M : Matrix n n ℝ} (hM : M.PosDef) :
     M.toQuadraticForm'.PosDef := by
   intro x hx
-  simp only [Matrix.toQuadraticForm', BilinForm.toQuadraticForm_apply, Matrix.toBilin'_apply']
+  simp [Matrix.toQuadraticForm', LinearMap.toQuadraticForm_apply, Matrix.toLinearMap₂'_apply']
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:344]: This simp is now non-terminal, which isn't a good thing

Comment (mans0954) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Oops. Fixed.

**Comment by mans0954** [comment]
> No, I don't think so; though perhaps its worth adding a TODO in the source code as well referring to that issue

Okay, I've added a TODO to `LinearAlgebra/TensorProduct/LinearMap`.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean [hunk 7]
```diff
@@ -59,36 +59,36 @@ def tensorDistrib : BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] BilinForm
 theorem tensorDistrib_tmul (B₁ : BilinForm A M₁) (B₂ : BilinForm R M₂) (m₁ : M₁) (m₂ : M₂)
     (m₁' : M₁) (m₂' : M₂) :
     tensorDistrib R A (B₁ ⊗ₜ B₂) (m₁ ⊗ₜ m₂) (m₁' ⊗ₜ m₂')
-      = B₂ m₂ m₂' • B₁ m₁ m₁' :=
-  rfl
+      = B₂ m₂ m₂' • B₁ m₁ m₁' := LinearMap.tensorDistrib_tmul (toLin B₁) (toLin B₂) m₁ m₂ m₁' m₂'
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:62]: I don't think this is good style: if the conclusion is broken across multiple lines, then the proof should get its own line; that is
```
example :
    something = else := rfl
```
is fine, as is
```
example :
    something = else :=
  rfl
```
but
```
example :
    something
      = else := rfl
```
is not, as it is much harder to see where the statement ends

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean [hunk 8]
```diff
@@ -59,36 +59,36 @@ def tensorDistrib : BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] BilinForm
 theorem tensorDistrib_tmul (B₁ : BilinForm A M₁) (B₂ : BilinForm R M₂) (m₁ : M₁) (m₂ : M₂)
     (m₁' : M₁) (m₂' : M₂) :
     tensorDistrib R A (B₁ ⊗ₜ B₂) (m₁ ⊗ₜ m₂) (m₁' ⊗ₜ m₂')
-      = B₂ m₂ m₂' • B₁ m₁ m₁' :=
-  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:63]: If something can be proved with `rfl`, it is usually best not to try and prove it with a different lemma; only `rfl` makes this eligible for `dsimp`.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean [hunk 9]
```diff
@@ -59,36 +59,36 @@ def tensorDistrib : BilinForm A M₁ ⊗[R] BilinForm R M₂ →ₗ[A] BilinForm
...
 /-- The base change of a bilinear form. -/
 protected def baseChange (B : BilinForm R M₂) : BilinForm A (A ⊗[R] M₂) :=
-  BilinForm.tmul (R := R) (A := A) (M₁ := A) (M₂ := M₂) (LinearMap.toBilin <| LinearMap.mul A A) B
+  LinearMap.toBilin (LinearMap.baseChange₂ A (toLin B))
 
 @[simp]
 theorem baseChange_tmul (B₂ : BilinForm R M₂) (a : A) (m₂ : M₂)
     (a' : A) (m₂' : M₂) :
     B₂.baseChange A (a ⊗ₜ m₂) (a' ⊗ₜ m₂') = (B₂ m₂ m₂') • (a * a') :=
-  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:90]: idem

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean]: Thanks. I've put this back to rfl.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean (hunk 9 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:90]: Put back to rfl.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean (hunk 8 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean]: Put back to rfl.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean [hunk 10]
```diff
@@ -0,0 +1,150 @@
+/-
+Copyright (c) 2023 Eric Wieser. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Eric Wieser, Christopher Hoskin
+-/
+import Mathlib.LinearAlgebra.Dual
+import Mathlib.LinearAlgebra.TensorProduct.Tower
+
+/-!
+# Bilinear maps on a Tensor Product
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:10]: Should this say "bilinear forms"? I think everything in this file is about `M₂ →ₗ[R] M₂ →ₗ[R] R`

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:1]: I'm now leaning torwards merging #10632 first; with that in place, I think we can just update `LinearAlgebra/BilinearForm/TensorProduct.lean` in place, rather than copying it. I don't think after this PR there is any need to keep content on tensor products of `_root_.BilinForm`.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:1]: Even before we decide about #10632; does anything use this file any more? If not, I'd be tempted to just delete it now.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean:1]: Okay, I've merged in `master` with #10632, have deleted `LinearAlgebra/TensorProduct/LinearMap` and have updated  `LinearAlgebra/BilinearForm/TensorProduct`.

File: Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean (hunk 10 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/TensorProduct/LinearMap.lean]: I've now removed this file as suggested below.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:1]: I've put the `LinearMap.BilinForm` versions of these results in this file instead, as suggested above.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 11]
```diff
@@ -671,155 +661,155 @@ def _root_.LinearMap.toQuadraticForm (B : LinearMap.BilinForm R M) : QuadraticFo
...
-
-/-- A bilinear form gives a quadratic form by applying the argument twice. -/
-def toQuadraticForm (B : BilinForm R M) : QuadraticForm R M :=
-  B.toLin.toQuadraticForm
-#align bilin_form.to_quadratic_form BilinForm.toQuadraticForm
+variable {B : M →ₗ[R] M →ₗ[R] R}
 
 @[simp]
-theorem toQuadraticForm_apply (B : BilinForm R M) (x : M) : B.toQuadraticForm x = B x x :=
+theorem toQuadraticForm_apply (B : M →ₗ[R] M →ₗ[R] R) (x : M) : B.toQuadraticForm x = B x x :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:669]: In this interest of keeping this PR small, I'd be incline to use `BilinForm R M` here (the abbreviation), even though in a future PR I know you want to replace it with `M →ₗ[R] M →ₗ[R] N`. Is that OK with you?

Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Okay, I've changed it. I wasn't sure if I should be replacing every occurrence of `M →ₗ[R] M →ₗ[R] N` with `LinearMap.BilinForm` or just the ones where we want to use the dot notation.

In future should we have `protected abbrev BilinMap : Type _ := M →ₗ[R] M →ₗ[R] N`?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 12]
```diff
@@ -671,155 +661,155 @@ def _root_.LinearMap.toQuadraticForm (B : LinearMap.BilinForm R M) : QuadraticFo
...
-
-/-- A bilinear form gives a quadratic form by applying the argument twice. -/
-def toQuadraticForm (B : BilinForm R M) : QuadraticForm R M :=
-  B.toLin.toQuadraticForm
-#align bilin_form.to_quadratic_form BilinForm.toQuadraticForm
+variable {B : M →ₗ[R] M →ₗ[R] R}
 
 @[simp]
-theorem toQuadraticForm_apply (B : BilinForm R M) (x : M) : B.toQuadraticForm x = B x x :=
+theorem toQuadraticForm_apply (B : LinearMap.BilinForm R M) (x : M) : B.toQuadraticForm x = B x x :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:669]: This diff would go away if you used `open LinearMap (BilinForm)` at the top of the file.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 13]
```diff
@@ -323,21 +324,12 @@ theorem polar_self (x : M) : polar Q x x = 2 * Q x := by
...
-  bilin_add_left := polar_add_left Q
-  bilin_smul_left := polar_smul_left Q
-  bilin_add_right x y z := by simp_rw [polar_comm _ x, polar_add_left Q]
-  bilin_smul_right r x y := by simp_rw [polar_comm _ x, polar_smul_left Q]
-#align quadratic_form.polar_bilin QuadraticForm.polarBilin
-
 /-- `QuadraticForm.polar` as a bilinear map -/
 @[simps!]
-def polarLinearMap₂ : LinearMap.BilinForm R M :=
+def polarLinearMap₂ : BilinForm R M :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:329]: I think we should rename this back to `polarBilin` now.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Contraction.lean [hunk 14]
```diff
@@ -241,22 +242,21 @@ local infixl:70 "⌊" => contractRight
...
 @[simps!]
-def changeFormAux (B : BilinForm R M) : M →ₗ[R] CliffordAlgebra Q →ₗ[R] CliffordAlgebra Q :=
+def changeFormAux (B : M →ₗ[R] M →ₗ[R] R) : M →ₗ[R] CliffordAlgebra Q →ₗ[R] CliffordAlgebra Q :=
   haveI v_mul := (Algebra.lmul R (CliffordAlgebra Q)).toLinearMap ∘ₗ ι Q
-  v_mul - contractLeft ∘ₗ (BilinForm.toLin B)
+  v_mul - contractLeft ∘ₗ B
 #align clifford_algebra.change_form_aux CliffordAlgebra.changeFormAux
 
-theorem changeFormAux_changeFormAux (B : BilinForm R M) (v : M) (x : CliffordAlgebra Q) :
+theorem changeFormAux_changeFormAux (B : M →ₗ[R] M →ₗ[R] R) (v : M) (x : CliffordAlgebra Q) :
```
Comment (mans0954) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Contraction.lean:250]: @eric-wieser Should I put this back to `(LinearMap.)BilinForm R M`?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 13 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Done.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Contraction.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Contraction.lean:250]: Yes please

Comment (mans0954) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Contraction.lean]: @eric-wieser okay, I think I've done that everywhere now. Thanks.

**Comment by eric-wieser** [comment]
bors d+

Thanks for this, it now looks excellent!
